US04101659
A mixture of 7.0 g (0.017 mole) of methyl N-(4-chlorobenzhydryl)carbamimidothioate hydroiodide and 2.85 g (0.04 mole) of pyrrolidine in 20 mls of t-BuOH is heated at reflux overnight. The t-BuOH is removed in vacuo and the crude guanidine hydroiodide is crystallized from methanol-ether. The crude product is recrystallized from methanol-t-butanol to yield pure N-(4-chlorobenzhydryl)-1-pyrrolidinecarboximidamide hydroiodide; mp 218°-220° (dec).

reactant | methyl N-(4-chlorobenzhydryl)carbamimidothioate hydroiodide | 0.017 mole, 7.0 g | I.ClC1=CC=C(C(C2=CC=CC=C2)NC(=N)SC)C=C1
reactant | pyrrolidine | 0.04 mole, 2.85 g | N1CCCC1 | C4H9N
solvent | t-BuOH | 20 mls | CC(C)(C)O | C4H10O
product | N-(4-chlorobenzhydryl)-1-pyrrolidinecarboximidamide hydroiodide | I.ClC1=CC=C(C(C2=CC=CC=C2)NC(=N)N2CCCC2)C=C1 | InChI=1S/C18H20ClN3.HI/c19-16-10-8-15(9-11-16)17(14-6-2-1-3-7-14)21-18(20)22-12-4-5-13-22;/h1-3,6-11,17H,4-5,12-13H2,(H2,20,21);1H
